US07960369B2
methyl 4-[[3-(1H-pyrrol-1-yl) phenyl]methoxy]benzenepropanoate
Methyl 4-[(3-bromophenyl)methoxy]benzenepropanoate (0.80 g, 2.3 mmol), pyrrole (0.17 g, 2.5 mmol), tri-tert-butylphosphine (19 mg, 0.092 mmol) and cesium carbonate (1.3 g, 3.9 mmol) were dissolved in toluene (25 mL) and, after argon substitution, tris(dibenzylidenacetone)dipalladium(0) (84 mg, 0.092 mmol) was added. The reaction mixture was heated under an argon atmosphere at 100° C. for 18 hrs. The reaction mixture was cooled, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=15:1) to give the title compound (56 mg, yield 7%) as a yellow powder.

reactant | Methyl 4-[(3-bromophenyl)methoxy]benzenepropanoate | 2.3 mmol, 0.80 g | BrC=1C=C(C=CC1)COC1=CC=C(C=C1)CCC(=O)OC | C17H17BrO3
reactant | pyrrole | 2.5 mmol, 0.17 g | N1C=CC=C1 | C4H5N
reactant | tri-tert-butylphosphine | 0.092 mmol, 19 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cesium carbonate | 3.9 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | methyl 4-[[3-(1H-pyrrol-1-yl) phenyl]methoxy]benzenepropanoate | 56 mg, yield 7% | N1(C=CC=C1)C=1C=C(C=CC1)COC1=CC=C(C=C1)CCC(=O)OC | C21H21NO3
